US08377924B2
2-Fluoro-5-nitrobenzotrifluoride (2 g) and 1-methylpiperazine (2 mL) were dissolved in methanol (5 mL). The yellow solution was stirred at rt overnight. The reaction mixture was diluted with water (100 mL) and extracted with ethyl acetate (2×100 mL). The organic solutions were evaporated to give 2-(4-methylpiperazino)-5-nitrobenzotrifluoride.

reactant | 2-Fluoro-5-nitrobenzotrifluoride | 2 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | 1-methylpiperazine | 2 mL | CN1CCNCC1 | C5H12N2
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 2-(4-methylpiperazino)-5-nitrobenzotrifluoride | CN1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C12H14F3N3O2
